### ISSUE TITLE
`grind` regression: `(kernel) application type mismatch`

### ISSUE THREAD

**Issue by TwoFX** [leanprover/lean4#10622]
### Prerequisites

Please put an X between the brackets as you perform the following steps:

* [x] Check that your issue is not already filed:
      https://github.com/leanprover/lean4/issues
* [x] Reduce the issue to a minimal, self-contained, reproducible test case.
      Avoid dependencies to Mathlib or Batteries.
* [x] Test your test case against the latest nightly release, for example on
      https://live.lean-lang.org/#project=lean-nightly
      (You can also use the settings there to switch to “Lean nightly”)

### Description

The following code broke recently on mathlib's `nightly-testing` branch:

```lean
def Int.leastOfBdd {P : Int → Prop} [DecidablePred P] (b : Int) (Hb : ∀ z : Int, P z → b ≤ z)
    (Hinh : ∃ z : Int, P z) : { lb : Int // P lb ∧ ∀ z : Int, P z → lb ≤ z } :=
  sorry
  
theorem Int.coe_leastOfBdd_eq {P : Int → Prop} [DecidablePred P] {b b' : Int} (Hb : ∀ z : Int, P z → b ≤ z)
    (Hb' : ∀ z : Int, P z → b' ≤ z) (Hinh : ∃ z : Int, P z) :
    (leastOfBdd b Hb Hinh : Int) = leastOfBdd b' Hb' Hinh := by
  grind
```

The error message is
```
(kernel) application type mismatch
  failed to pretty print expression (use 'set_option pp.rawOnError true' for raw representation)
argument has type
  failed to pretty print expression (use 'set_option pp.rawOnError true' for raw representation)
but function has type
  failed to pretty print expression (use 'set_option pp.rawOnError true' for raw representation)
```

The `rawOnError` terms are very long, so I'm not putting them here.

### Context

This is a failure in mathlib's `nightly-testing` branch.

### Steps to Reproduce

1. Run the above code on a recent nightly, for example on live.lean-lang.org

**Expected behavior:** `grind` succeeds as it did before

**Actual behavior:** See above

### Versions

`Lean 4.25.0-nightly-2025-09-29`

### Additional information

For reference, a correct manual proof of the lemma is this:
```lean
  rcases leastOfBdd b Hb Hinh with ⟨n, hn, h2n⟩
  rcases leastOfBdd b' Hb' Hinh with ⟨n', hn', h2n'⟩
  exact Int.le_antisymm (h2n _ hn') (h2n' _ hn)
```

### Impact

Add :+1: to [issues you consider important](https://github.com/leanprover/lean4/issues?q=is%3Aissue+is%3Aopen+sort%3Areactions-%2B1-desc). If others are impacted by this issue, please ask them to add :+1: to it.

**Comment by TwoFX** [comment]
Another one, also from mathlib:
```lean
example (f : Int → Int) (a b : Int)
    (x : Int)
    (u₁ : x ≠ a)
    (c : Int)
    (u₃ : a ≤ x ∧ x ≤ b)
    (hc : a ≤ c ∧ c ≤ b) :
    let g : Int → Int := fun x => if a < x ∧ x ≤ b then f x else 0
    f x = g x := by
  --grind -- fails
  grind -order -- succeeds
```

The error message is:
```
(kernel) application type mismatch
  Lean.Grind.Order.eq_of_le_of_le
    (Lean.Grind.Order.int_lt (eagerReduce (Eq.refl true))
      (Lean.Grind.Order.lt_of_not_le_k (eagerReduce (Eq.refl true))
        (Lean.Grind.Order.eq_mp_not
          (id
            (Lean.Grind.CommRing.le_norm_expr (Lean.RArray.branch 1 (Lean.RArray.leaf a) (Lean.RArray.leaf x))
              (((Lean.Grind.CommRing.Expr.var 0).add
                    ((Lean.Grind.CommRing.Expr.num 1).neg.mul (Lean.Grind.CommRing.Expr.var 1))).add
                (Lean.Grind.CommRing.Expr.num 1))
              (Lean.Grind.CommRing.Expr.num 0) (Lean.Grind.CommRing.Expr.var 0)
              ((Lean.Grind.CommRing.Expr.var 1).add (Lean.Grind.CommRing.Expr.intCast (-1)))
              (eagerReduce (Eq.refl true))))
          (of_eq_false (Eq.trans (Eq.symm (Lean.Grind.and_eq_of_eq_true_right (eq_true right))) (eq_false h_1))))))
argument has type
  x ≤ a + 0
but function has type
  x ≤ a → a ≤ x → x = a
```

**Comment by TwoFX** [comment]
Another example, reported in #10894:
```lean
example {a b : Int} (h : a ≠ b) (h' : ¬ a < b) : b < a := by grind
```
The error message is:
```
(kernel) application type mismatch
  Lean.Grind.Order.eq_of_le_of_le
    (Lean.Grind.Order.eq_mp
      (id
        (Lean.Grind.CommRing.le_norm_expr (Lean.RArray.branch 1 (Lean.RArray.leaf a) (Lean.RArray.leaf b))
          ((Lean.Grind.CommRing.Expr.var 0).add
            ((Lean.Grind.CommRing.Expr.num 1).neg.mul (Lean.Grind.CommRing.Expr.var 1)))
          (Lean.Grind.CommRing.Expr.num 0) (Lean.Grind.CommRing.Expr.var 0)
          ((Lean.Grind.CommRing.Expr.var 1).add (Lean.Grind.CommRing.Expr.intCast 0)) (eagerReduce (Eq.refl true))))
      h_1)
argument has type
  a ≤ b + IntCast.intCast 0
but function has type
  a ≤ b → b ≤ a → a = b
```
